US09023840B2
5-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-ethylpyridine-2-carboxamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 3, Step 1-3 starting from 5-bromopyridine-2-carboxylic acid, ethylamine (2.0 M in tetrahedrofuran solution) and {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride. LCMS (M+H)+: m/z=428.2.

reactant | 5-bromopyridine-2-carboxylic acid | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | ethylamine | 2.0 M | C(C)N | C2H7N
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
product | 5-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-ethylpyridine-2-carboxamide | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)NCC)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C22H21N9O
